US06723722B1
N-(2,2-Dimethoxyethyl)-6-chloro-2-naphthalenesulfonamide was dissolved in DMF (100 ml) and combined with sodium hydride (1.16 g, in oil), cooled to 0° C., treated dropwise with a solution of ethyl bromoacetate (4.843 g) in tetrahydrofuran (15 ml) and then stirred at room temperature for 3 hours. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, aqueous sodium bicarbonate and brine, dried and concentrated to obtain N-(2,2-dimethoxyethyl)-N-(6-chloro-2-naphthalenesulfonyl)glycine ethyl ester as a colorless oil.

reactant | N-(2,2-Dimethoxyethyl)-6-chloro-2-naphthalenesulfonamide | COC(CNS(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)OC | C14H16ClNO4S
reactant | sodium hydride | 1.16 g | [H-].[Na+]
reactant | ethyl bromoacetate | 4.843 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(2,2-dimethoxyethyl)-N-(6-chloro-2-naphthalenesulfonyl)glycine ethyl ester | C(C)OC(CN(S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CC(OC)OC)=O | C18H22ClNO6S
